US05534481
Preparation of N1, N1 -dimethyl-N2 -[(4-hydroxy-2-methyl-2H-indazol- 3-yl)sulfonyl]formamidine (compound represented by the formula [II-i])
21.3 g (174 mmol) of dimethylformamide dimethylacetal was dropwise added to a solution containing 33 g (145 mmol) of 4-hydroxy-2-methyl-2H-indazole-3-sulfonamide in 200 ml of acetonitrile, at room temperature. The mixture was stirred for one hour, then poured into ice water and extracted with ethyl acetate. The organic layer was washed with water, then concentrated and purified by column chromatography to obtain 35.2 g (yield: 86.3%) of the desired product. Melting point: 118°-119° C.

reactant | dimethylformamide dimethylacetal | 174 mmol, 21.3 g | COC(N(C)C)OC | C5H13NO2
reactant | 4-hydroxy-2-methyl-2H-indazole-3-sulfonamide | 145 mmol, 33 g | OC=1C2=C(N(N=C2C=CC1)C)S(=O)(=O)N | C8H9N3O3S
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
product | N1, N1 -dimethyl-N2 -[(4-hydroxy-2-methyl-2H-indazol- 3-yl)sulfonyl]formamidine | 35.2 g, yield: 86.3% | CN(C=NS(=O)(=O)C=1N(N=C2C=CC=C(C12)O)C)C | C11H14N4O3S
